US08222248B2
To a stirred solution of 4,5-diamino-2,3-difluorobenzoic acid methyl ester (404 mg, 2.0 mmol) and 2,6-dichlorobenzaldehyde in DMSO (15 mL) was added Yb(OTf)3 (248 mg, 20%) and the solution was stirred at ambient temperature overnight. The reaction was quenched with water and the aqueous layer was extracted with EtOAc. The organic layer was washed with water, brine, dried with MgSO4, and filtered. The solvent was removed under reduced pressure to give 2-(2,6-dichlorophenyl)-6,7-difluoro-3H-benzoimidazole-5-carboxylic acid methyl ester as a yellow solid.

reactant | 4,5-diamino-2,3-difluorobenzoic acid methyl ester | 2.0 mmol, 404 mg | COC(C1=C(C(=C(C(=C1)N)N)F)F)=O | C8H8F2N2O2
reactant | 2,6-dichlorobenzaldehyde | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | Yb(OTf)3 | 248 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 2-(2,6-dichlorophenyl)-6,7-difluoro-3H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C(=C1F)F | C15H8Cl2F2N2O2
